US07592143B2
3,4-Bis-allyloxy-benzophenone
To a suspension of 3,4-dihydroxybenzophenone (2.140 g, 10 mmol) and cesium carbonate (7.010 g, 21.6 mmol) in dry acetone (50 mL) was added allylbromide (5.3 mL, 60 mmol). The mixture was stirred at 60° C. for 6 h and additional allybromide (3.0 mL, 34.7 mmol) and cesium carbonate (3.000 g, 9.2 mmol) were added. The mixture was stirred for 3 h, cooled to room temperature, filtered and washed with EtOAc. The filtrate and washing were combined and evaporated under reduced pressure. The crude product was partitioned between EtOAc (50 mL) and H2O (15 mL). The EtOAc phase was separated and evaporated to give a light yellow oil (2.922 g, 99%): 1H NMR (CDCl3, 300 MHz) δ 7.77 (m, 1H), 7.74 (m, 1H), 7.57 (m, 1H), 7.50-7.44 (m, 3H), 7.38 (ddd, J=0.9, 2.4, 8.7 Hz, 1H), 6.91 (d, J=8.4 Hz, 1H), 6.08 (m, 2H), 5.47 (m, 1H), 5.41 (m, 1H), 5.32 (m, 2H), 4.68 (m, 4H).

reactant | 3,4-dihydroxybenzophenone | 10 mmol, 2.140 g | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1O | C13H10O3
reactant | cesium carbonate | 21.6 mmol, 7.010 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | allylbromide | 60 mmol, 5.3 mL | C(C=C)Br | C3H5Br
reactant | cesium carbonate | 9.2 mmol, 3.000 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetone | 50 mL | CC(=O)C | C3H6O
product | 3,4-Bis-allyloxy-benzophenone | 2.922 g, 99% | C(C=C)OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OCC=C | C19H18O3
